* C:\Users\thoma\Documents\GitHub\Projet5ArobotInfirmier\spice alimentation\buck V1 fonctionnel\buckV1.asc
V1 Vcc 0 36
M1 Vcc cmd02 N001 N001 BSC042NE7NS3
D1 0 N001 1N4148
L1 N001 sortie 1m
C1 sortie 0 1µ
V2 comp 0 30
XU2 comp sortie Vcc 0 cmd OP1177
R1 sortie 0 10
V3 cmd02 0 PULSE(0 30 0 {T/1000} {T/1000} {T*rc} {T})
.model D D
.lib C:\Users\thoma\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\thoma\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 {200*T} {100*T}
.param T = 1u rc = 0.5
.lib ADI1.lib
.backanno
.end
